US04093804
p-Chloromethylphenylglycine wherein the amino group is protected with tert-butoxycarbonyl is treated with isobutylchloroformate in the presence of triethylamine. The thus obtained anhydride is reacted with the triethylamine salt of 3-[(2-methyl-1,3,4-thiadiazol-5-ylthio)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid at 0° C for about 4 hours. The resulting product is isolated, and the amine protecting group is removed by acid hydrolysis and the amine protecting group is removed by acid hydrolysis to give 3-[(2-methyl-1,3,4-thiadiazol-5-ylthio)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | p-Chloromethylphenylglycine | ClCC1=CC=C(C=C1)NCC(=O)O | C9H10ClNO2
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-[(2-methyl-1,3,4-thiadiazol-5-ylthio)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | CC=1SC(=NN1)SCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C11H12N4O3S3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-[(2-methyl-1,3,4-thiadiazol-5-ylthio)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | CC=1SC(=NN1)SCC1=C(N2C(C(C2SC1)NC(C(N)C1=CC=C(C=C1)CCl)=O)=O)C(=O)O | C20H20ClN5O4S3
